US06951848B2
2-(4-amino-3-iodo-phenyl)-ethanol
To a mixture of 4-aminophenethyl alcohol (20 g, 145.8 mmol) and calcium carbonate (18.2 g, 145.8 mmol) in methanol (200 mL) was added iodine (37 g, 182.3 mmol) in portions. The mixture was heated at reflux overnight and then concentrated in vacuo to give a dark brown residue, which was partitioned between ethyl acetate and saturated sodium bisulfite solution. The organic phase was washed with water and brine, dried over Na2SO4 and filtered. The filtrate was concentrated in vacuo to give 14.1 g (37%) of desired product as a light brown syrup. MS(APCI+): m/z 264.1 (MH+). The compound was taken to Step B without further purification.

reactant | 4-aminophenethyl alcohol | 145.8 mmol, 20 g | NC1=CC=C(CCO)C=C1 | C8H11NO
reactant | calcium carbonate | 145.8 mmol, 18.2 g | C([O-])([O-])=O.[Ca+2]
reactant | iodine | 182.3 mmol, 37 g | II | I2
solvent | methanol | 200 mL | CO | CH4O
product | 2-(4-amino-3-iodo-phenyl)-ethanol | 14.1 g, 37% | NC1=C(C=C(C=C1)CCO)I | C8H10INO
